US07176242B2
2-Butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1,2,3,4-tetrahydroisoquinoline-7-carboxamide dihydrochloride
A solution of 2-butyl-1,2,3,4-tetrahydroisoquinoline-7-carboxylic acid (190 mg, 0.81 mmol), HATU (465 mg, 1.2 mmol), HOBt (162 mg, 1.2 mmol), and diisopropylethylamine (250 μL, 1.6 mmol) is stirred in methylene chloride (2.0 mL) for 15 min. A solution of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol prepared by the method in EXAMPLE SP-272 (332 mg, 0.81 mmol) and diisopropylethylamine (250 μL, 1.6 mmol) in methylene chloride (2.0 mL) is added, and the reaction mixture is stirred overnight. The reaction mixture is diluted with methylene chloride, washed with 1 N hydrochloric acid (15 mL), saturated sodium bicarbonate (15 mL), and brine. The organic layer is then dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:9 methanol/chloroform) provides the title compound as the free base. The solid is dissolved in methanol (1 mL), and treated with hydrochloric acid (0.2 mL, 1.0 M diethyl ether, 0.2 mmol). The resulting precipitate was collected by filtration to provide the title compound. ESI MS m/z 550.3 [M+H]+.

reactant | 2-butyl-1,2,3,4-tetrahydroisoquinoline-7-carboxylic acid | 0.81 mmol, 190 mg | C(CCC)N1CC2=CC(=CC=C2CC1)C(=O)O | C14H19NO2
reactant | HATU | 1.2 mmol, 465 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 1.2 mmol, 162 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 1.6 mmol, 250 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | diisopropylethylamine | 1.6 mmol, 250 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 2-Butyl-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1,2,3,4-tetrahydroisoquinoline-7-carboxamide dihydrochloride | Cl.Cl.C(CCC)N1CC2=CC(=CC=C2CC1)C(=O)N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | InChI=1S/C33H41F2N3O2.2ClH/c1-3-5-12-38-13-11-26-9-10-27(18-28(26)22-38)33(40)37-31(17-25-15-29(34)19-30(35)16-25)32(39)21-36-20-24-8-6-7-23(4-2)14-24;;/h6-10,14-16,18-19,31-32,36,39H,3-5,11-13,17,20-22H2,1-2H3,(H,37,40);2*1H/t31-,32+;;/m0../s1
